US05015758
Preparation of methyl 5-(1-adamantyl)-2-fluoro-4methoxybenzoate
In a 100 ml flask, in a nitrogen atmosphere, are placed 2.48 g of I-adamantanol and 10 ml of n-heptane. Then 0.034 ml concentrated sulfuric acid and 1.76 ml of acetic anhydride are added dropwise. After one hour of agitation, there are added 0.87 ml of concentrated sulfuric acid and then a suspension of 2 g of methyl 2-fluoro-4-methoxybenzoate in 10 ml of cyclohexane. After 16 hours of reaction at room temperature, agitation is stopped and one separates the upper layer. The solvents heptane and cyclohexane are evaporated and then the product is extracted with dichloromethane. The organic phase is washed with aqueous bicarbonate solution, dried over magnesium sulfate and filtered on a Buchner funnel. After evaporation of the solvent under reduced pressure at 40° C., the product is dissolved in a 50:50 mixture of dichloromethane and hexane and then purified by filtration using a silica column. After passage of a liter of 50:50 dichloromethane/hexane eluent, one evaporates the solvents under reduced pressure at 30° C. and then dries the product in an oven at 50° C. for 24 hours. Thus were obtained 3 g of the pure product melting at 82°-88° C.

reactant | n-heptane | 10 ml | CCCCCCC | C7H16
reactant | sulfuric acid | 0.034 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 1.76 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.87 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 2-fluoro-4-methoxybenzoate | 2 g | FC1=C(C(=O)OC)C=CC(=C1)OC | C9H9FO3
reactant | cyclohexane | 10 ml | C1CCCCC1 | C6H12
product | methyl 5-(1-adamantyl)-2-fluoro-4methoxybenzoate | 3 g | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)OC)C2)F)OC | C19H23FO3
